US05856309
To a refluxing suspension of 1.58 g (66 mmol) sodium hydride in 100 ml THF was added dropwise a solution of 12.79 g (60 mmol) N-tert-butyloxycarbonyl-glycine ethyl ester and 7.15 g (66 mmol) ethyl acrylate in 100 ml THF. After the addition was complete the mixture was heated to reflux for additional 2 h. The clear solution was cooled to room temperature, poured on 100 ml ether/100 ml water and acidified under vigorous stirring with 1N hydrochloric acid against methyl orange. The layers were separated and the aqueous layer was extracted three times with ether. The combined organic layers were washed with sat. sodium bicarbonate and brine, dried over MgSO4 and evaporated. Short-path distillation of the residue gave 10.92 g (71%) 4-oxo-pyrrolidine-1,3-dicarboxylic acid 1-tert. butylester 3-ethylester as a colorless oil, b.p. 119°-122° C. (0.2 mbar), which solidified on prolonged standing in the freezer.

reactant | sodium hydride | 66 mmol, 1.58 g | [H-].[Na+]
reactant | N-tert-butyloxycarbonyl-glycine ethyl ester | 60 mmol, 12.79 g | C(C)OC(CNC(=O)OC(C)(C)C)=O | C9H17NO4
reactant | ethyl acrylate | 66 mmol, 7.15 g | C(C=C)(=O)OCC | C5H8O2
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | methyl orange | CN(C)C=1C=CC(=CC1)N=NC=2C=CC(=CC2)S(=O)(=O)O | C14H15N3O3S
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 4-oxo-pyrrolidine-1,3-dicarboxylic acid 1-tert. butylester 3-ethylester | 10.92 g, 71% | C(C)OC(=O)C1CN(CC1=O)C(=O)OC(C)(C)C | C12H19NO5
